US08198269B2
(2) Synthesis of [(2R,4R,5S)-5-amino-2-benzyloxymethyl-5-(5-bromo-2-fluorophenyl)tetrahydropyran-4-yl]methanol
Zinc powder (4.24 g) was added to a solution of (3aR,5R,7aS)-5-benzyloxymethyl-7a-(5-bromo-2-fluorophenyl)hexahydropyrano[3,4-c]isoxazole (2.74 g) in acetic acid (40 ml). After stirring at room temperature overnight, the insoluble matter was removed by filtration through celite. The solvent was evaporated under reduced pressure and ice was added to the residue, followed by neutralization with a 5 N sodium hydroxide solution. The aqueous layer was extracted with dichloromethane, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (2.22 g).

reactant | (3aR,5R,7aS)-5-benzyloxymethyl-7a-(5-bromo-2-fluorophenyl)hexahydropyrano[3,4-c]isoxazole | 2.74 g | C(C1=CC=CC=C1)OC[C@H]1C[C@@H]2[C@@](NOC2)(CO1)C1=C(C=CC(=C1)Br)F | C20H21BrFNO3
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 4.24 g | [Zn] | Zn
product | [(2R,4R,5S)-5-amino-2-benzyloxymethyl-5-(5-bromo-2-fluorophenyl)tetrahydropyran-4-yl]methanol | 2.22 g | N[C@@]1([C@@H](C[C@@H](OC1)COCC1=CC=CC=C1)CO)C1=C(C=CC(=C1)Br)F | C20H23BrFNO3
